US05880130
Using an analogous reaction procedure to that described in Example 6, 4-chloro-6-(3'-methylanilino)pyrimidine (1.35 g) was reacted with 4-(3-hydroxypropoxy)aniline.(1.0 g). The product so obtained was chromatographed on silica and triturated under methylene chloride to give 4-[4'-(3-hydrox-ypropoxy)anilino]6-(3'-methylanilino)pyrimidine in 18% yield, m.p. 196°-200° C.;

reactant | 4-chloro-6-(3'-methylanilino)pyrimidine | 1.35 g | ClC1=NC=NC(=C1)NC1=CC(=CC=C1)C | C11H10ClN3
reactant | 4-(3-hydroxypropoxy)aniline | OCCCOC1=CC=C(N)C=C1 | C9H13NO2
product | 4-[4'-(3-hydrox-ypropoxy)anilino]6-(3'-methylanilino)pyrimidine | 18% yield | OCCCOC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C20H22N4O2
